US04000153
In the manner given in Example 3, 7-bromo-1-methyl-5-phenyl-s-triazolo[4,3-a]quinoline is oxidized at low temperature with sodium periodate and ruthenium dioxide to give 5-bromo-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone.

reactant | 7-bromo-1-methyl-5-phenyl-s-triazolo[4,3-a]quinoline | BrC=1C=C2C(=CC=3N(C2=CC1)C(=NN3)C)C3=CC=CC=C3 | C17H12BrN3
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium dioxide | [Ru](=O)=O
product | 5-bromo-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)C | C16H12BrN3O
